US06723726B1
(1-Benzyl-1H-indazol-5-yl)-(6-imidazol-1-yl-pyrido[3,4-d]pyrimidin-4-yl)-amine
Imidazole (0.8 g) in dry DMSO was treated with sodium hydride (60%, 0.47 g) and (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine in a reacti-vial and heated at 120° C. After 7 days, the mixture was poured onto water and extracted with ethyl acetate. Purification using a Bond Elute™ cartridge gave the title compound as a brown solid after trituration from water; δH [2H6]DMSO 10.28(1H,s), 9.25(1H,s), 8.90(1H,s), 8.78(1H,s), 8.67(1H,s), 8.40(1H,s), 8.30(1H,s), 8.10(1H,s), 7.88(2H,m), 7.40(5H,m), 5.70(2H,s); m/z (M+) 419.

reactant | Imidazole | 0.8 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.47 g | [H-].[Na+]
reactant | (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C21H15ClN6
solvent | DMSO | CS(=O)C | C2H6OS
product | (1-Benzyl-1H-indazol-5-yl)-(6-imidazol-1-yl-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)N2C=NC=C2 | C24H18N8
